US06906084B2
(i) 1H-Indole-2,5-dicarboxylic acid 5-methyl ester.
A solution of 25 g 4-Amino-3-iodo-benzoic acid methyl ester, 19 ml 2-Oxo-propionic acid, 30.4 g 1,4-Diaza-bicyclo[2.2.2]octane and 1 g Pd(OAc)2 was heated under argon to 100° C. After 5 h the reaction mixture was concentrated under reduced pressure and the residue was partitioned between 300 ml ethyl acetate and 200 ml 1 M hydrochloric acid. The organic layer was dried over MgSO4 and the solvent removed under reduced pressure to yield a yellow solid (6.4 g). From the aqueous layer additional product slowly precipitated as a white solid (7.9 g) which was collected by filtration. Both fractions were combined, dried in vacuo and used in the next reaction without further purification. Yield: 14.3 g MS (ES+): m/e=220.

reactant | 4-Amino-3-iodo-benzoic acid methyl ester | 25 g | COC(C1=CC(=C(C=C1)N)I)=O | C8H8INO2
reactant | 2-Oxo-propionic acid | 19 ml | O=C(C(=O)O)C | C3H4O3
reactant | 1,4-Diaza-bicyclo[2.2.2]octane | 30.4 g | N12CCN(CC1)CC2 | C6H12N2
catalyst | Pd(OAc)2 | 1 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 1H-Indole-2,5-dicarboxylic acid 5-methyl ester | 6.4 g | COC(=O)C=1C=C2C=C(NC2=CC1)C(=O)O | C11H9NO4
